US07846960B2
3-({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenylamino}-methyl)-benzoic Acid
To a 0° C. solution of 3-[(tert-Butoxycarbonyl-{4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-amino)-methyl]-benzoic acid methyl ester (797 mg, 1.24 mmol) in dioxane (10 mL) is added hydrochloric acid (3.12 mL, 12.40 mmol, 4M in dioxane) dropwise. The reaction is warmed to room temperature and is stirred overnight. The reaction mixture is concentrated under reduced pressure and the residue is partitioned between EtOAc and saturated aqueous NaHCO3. The aqueous layer is extracted with EtOAc and the combined organic layers are washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. The residue is chromatographed (SiO2 120 g, 0% to 30% EtOAc/Hex) to yield the title compound (603 mg, 90%). ES/MS m/e (35Cl) 524.0 (M+1)

reactant | 3-[(tert-Butoxycarbonyl-{4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-amino)-methyl]-benzoic acid methyl ester | 1.24 mmol, 797 mg | COC(C1=CC(=CC=C1)CN(C1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)C(=O)OC(C)(C)C)=O | C34H37Cl2N3O5
reactant | hydrochloric acid | 12.40 mmol, 4M, 3.12 mL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenylamino}-methyl)-benzoic Acid | 603 mg, 90% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)NCC=1C=C(C(=O)O)C=CC1)C)C(C)C | C28H27Cl2N3O3
